* ============================================================
* EDA Simulator Platform — Built-in SPICE Model Library
* Source: Industry-standard parameters from manufacturer datasheets
* Compatible with ngspice 26+
* ============================================================

* ─── Diodes ─────────────────────────────────────────────────

* 1N4148 — Small Signal Switching Diode
* Source: Vishay datasheet, standard Berkley SPICE model
.MODEL 1N4148 D(IS=2.52e-9 RS=0.568 N=1.752 CJO=4e-12 M=0.4 TT=20e-9 BV=100 IBV=100e-6 TNOM=27)

* 1N4007 — 1A General Purpose Rectifier
* Source: ON Semiconductor, ngspice built-in compatible
.MODEL 1N4007 D(IS=7.02e-9 RS=0.042 N=1.994 BV=1000 IBV=5e-8 CJO=13.1e-12 M=0.333 FC=0.5 TT=5.76e-6 TNOM=27)

* 1N5817 — 1A Schottky Barrier Rectifier
.MODEL 1N5817 D(IS=3.14e-6 RS=0.035 N=1.020 BV=20 IBV=1e-4 CJO=150e-12 M=0.333 FC=0.5 TT=5e-9 TNOM=27)

* BAT54 — Small Signal Schottky Diode
.MODEL BAT54 D(IS=2.5e-8 RS=0.1 N=1.05 BV=30 IBV=2e-5 CJO=10e-12 M=0.334 TT=0 TNOM=27)

* BZX79-C5V1 — 5.1V Zener Diode
.MODEL BZX79C5V1 D(IS=1e-14 RS=10 N=1 BV=5.1 IBV=5e-3 CJO=10e-12 TNOM=27)

* BZX79-C12 — 12V Zener Diode
.MODEL BZX79C12 D(IS=1e-14 RS=10 N=1 BV=12 IBV=1e-3 CJO=10e-12 TNOM=27)

* ─── BJT NPN ─────────────────────────────────────────────────

* 2N2222A — NPN General Purpose Amplifier
* Source: Motorola/ON Semi datasheet
.MODEL 2N2222 NPN(IS=3.108e-14 BF=255.9 NF=1 VAF=161.7 IKF=0.3 ISE=4.439e-14 NE=1.5 BR=6.092 NR=1 VAR=18.2 IKR=12e-3 ISC=2.458e-13 NC=2 RC=0.3 CJE=22.01e-12 VJE=0.7 MJE=0.377 CJC=7.306e-12 VJC=0.5 MJC=0.3018 TF=411.1e-12 XTF=3 VTF=1.7 ITF=0.6 TR=46.91e-9 TNOM=27)

* 2N3904 — NPN General Purpose Amplifier (TO-92)
.MODEL 2N3904 NPN(IS=6.734e-15 XTI=3 EG=1.11 VAF=74.03 BF=416.4 NE=1.259 ISE=6.734e-15 IKF=66.78e-3 XTB=1.5 BR=0.7371 NC=2 ISC=0 IKR=0 RC=1 CJC=3.638e-12 MJC=0.3085 VJC=0.75 FC=0.5 CJE=4.493e-12 MJE=0.2593 VJE=0.75 TR=239.5e-9 TF=301.2e-12 ITF=0.4 VTF=4 XTF=2 RB=10 TNOM=27)

* BC547B — NPN Small Signal Transistor
.MODEL BC547B NPN(IS=1.8e-14 BF=400 VAF=80 IKF=0.1 NE=1.4 ISE=5e-14 BR=3.5 RC=0.5 RE=0.4 RB=30 CJC=4.5e-12 MJC=0.48 VJC=0.5 CJE=13e-12 VJE=0.5 MJE=0.55 TF=500e-12 TT=10e-9 XTF=6 VTF=3 ITF=30e-3 TNOM=27)

* BC817 — NPN Small Signal Transistor (SMD)
.MODEL BC817 NPN(IS=5e-14 BF=300 NF=1 VAF=50 IKF=0.2 NE=1.5 ISE=1e-13 BR=5 RC=0.5 CJC=3e-12 CJE=10e-12 TF=450e-12 TNOM=27)

* ─── BJT PNP ─────────────────────────────────────────────────

* 2N3906 — PNP General Purpose Amplifier (TO-92)
.MODEL 2N3906 PNP(IS=1.41e-15 XTI=3 EG=1.11 VAF=18.7 BF=180.7 NE=1.3 ISE=0 IKF=80e-3 XTB=1.5 BR=4.977 NC=2 ISC=0 IKR=0 RC=2.5 CJC=9.728e-12 MJC=0.5776 VJC=0.75 FC=0.5 CJE=8.063e-12 MJE=0.3677 VJE=0.75 TR=33.42e-9 TF=179.3e-12 ITF=0.4 VTF=4 XTF=6 RB=10 TNOM=27)

* BC557B — PNP Small Signal Transistor
.MODEL BC557B PNP(IS=6.5e-15 BF=400 VAF=50 IKF=0.1 NE=1.4 ISE=2e-14 BR=4 RC=0.5 RE=0.4 RB=30 CJC=4.5e-12 CJE=13e-12 TF=500e-12 TNOM=27)

* ─── MOSFET N-Channel ─────────────────────────────────────────

* 2N7002 — N-Channel Enhancement MOSFET (Small Signal, TO-236)
.MODEL 2N7002 NMOS(VTO=2.5 KP=80e-3 GAMMA=0 PHI=0.6 LAMBDA=0.017 CGSO=50e-12 CGDO=5e-12 TNOM=27)

* IRF540N — N-Channel Power MOSFET (TO-220, 100V 33A)
.MODEL IRF540N NMOS(VTO=3.7 KP=10 GAMMA=0 PHI=0.6 LAMBDA=0.01 CGSO=1.9e-9 CGDO=70e-12 RDS=0.044 TNOM=27)

* BS170 — N-Channel Enhancement MOSFET (Signal)
.MODEL BS170 NMOS(VTO=2.0 KP=60e-3 LAMBDA=0.02 CGSO=30e-12 CGDO=3e-12 TNOM=27)

* ─── MOSFET P-Channel ─────────────────────────────────────────

* IRF9540N — P-Channel Power MOSFET (TO-220)
.MODEL IRF9540N PMOS(VTO=-3.8 KP=5 LAMBDA=0.02 CGSO=1.8e-9 CGDO=60e-12 RDS=0.117 TNOM=27)

* BS250 — P-Channel Enhancement MOSFET
.MODEL BS250 PMOS(VTO=-3.5 KP=40e-3 LAMBDA=0.01 CGSO=20e-12 CGDO=2e-12 TNOM=27)

* ─── Op-Amps (Subcircuit Models) ─────────────────────────────

* LM358 — Dual General Purpose Op-Amp (simplified behavioral)
.SUBCKT LM358 IN+ IN- V+ V- OUT
+ params: avol=100k rin=1Meg rout=100 voh=2 vol=0.02
Rin  IN+ IN- {rin}
Egain out_int 0 value={ limit(V(IN+, IN-) * avol, V(V-)+vol, V(V+)-voh) }
Rout out_int OUT {rout}
.ENDS LM358

* LM741 — Classic Op-Amp (simplified)
.SUBCKT LM741 IN+ IN- V+ V- OUT
Rin  IN+ IN- 2Meg
Egain out_int 0 value={ limit(V(IN+, IN-) * 100k, V(V-)+1.5, V(V+)-1.5) }
Rout out_int OUT 75
Cout OUT 0 30p
.ENDS LM741

* TL071 — JFET Input Op-Amp
.SUBCKT TL071 IN+ IN- V+ V- OUT
Rin  IN+ IN- 1T
Egain out_int 0 value={ limit(V(IN+, IN-) * 200k, V(V-)+1.5, V(V+)-1.5) }
Rout out_int OUT 100
Cout OUT 0 10p
.ENDS TL071

* LM324 — Quad Op-Amp (single section)
.SUBCKT LM324 IN+ IN- V+ V- OUT
Rin  IN+ IN- 1Meg
Egain out_int 0 value={ limit(V(IN+, IN-) * 100k, V(V-)+0.02, V(V+)-1.5) }
Rout out_int OUT 50
.ENDS LM324

* NE5532 — Low Noise Op-Amp
.SUBCKT NE5532 IN+ IN- V+ V- OUT
Rin  IN+ IN- 300k
Egain out_int 0 value={ limit(V(IN+, IN-) * 100k, V(V-)+2.0, V(V+)-2.0) }
Rout out_int OUT 0.3
Cout OUT 0 5p
.ENDS NE5532

* ─── Voltage Regulators ─────────────────────────────────────

* 7805 — +5V Positive Voltage Regulator
.SUBCKT LM7805 IN GND OUT
Rin IN GND 100k
Vref vref GND DC 5.0
Eout OUT GND vref GND 1.0
Rout OUT GND 1k
.ENDS LM7805

* 7812 — +12V Positive Voltage Regulator
.SUBCKT LM7812 IN GND OUT
Rin IN GND 100k
Vref vref GND DC 12.0
Eout OUT GND vref GND 1.0
Rout OUT GND 1k
.ENDS LM7812

* 7905 — -5V Negative Voltage Regulator
.SUBCKT LM7905 IN GND OUT
Rin IN GND 100k
Vref vref GND DC -5.0
Eout OUT GND vref GND 1.0
Rout OUT GND 1k
.ENDS LM7905

* LM317 — Adjustable Positive Voltage Regulator
.SUBCKT LM317 IN ADJ OUT
Rin IN OUT 1k
Vref vref ADJ DC 1.25
Eout OUT ADJ vref ADJ 1.0
.ENDS LM317

* ─── Miscellaneous ──────────────────────────────────────────

* LED Red — Typical forward voltage ~2.0V
.MODEL LED_RED D(IS=1e-20 RS=5 N=2 BV=5 CJO=10p M=0.333 TT=5n TNOM=27)

* LED Green — Typical forward voltage ~2.2V
.MODEL LED_GREEN D(IS=1e-22 RS=5 N=2.2 BV=5 CJO=10p M=0.333 TT=5n TNOM=27)

* LED Blue/White — Typical forward voltage ~3.0V
.MODEL LED_BLUE D(IS=1e-24 RS=5 N=3 BV=5 CJO=10p M=0.333 TT=5n TNOM=27)

* Crystal Oscillator — 16 MHz (for MCU circuits)
.SUBCKT XTAL 1 2
* Equivalent circuit: Rs, Ls, Cs series branch || Cp parallel
Rs 1 n1 12
Ls n1 n2 0.015
Cs n2 2 7e-15
Cp 1 2 4.5p
.ENDS XTAL
